US05563141
A mixture of ethyl 1-benzyloxycarbonylpiperidine-4-oxyacetate (2.4 g) and 2-methoxyethylamine (5 ml) was heated on a steam bath for 6 hours. The amine was evaporated under reduced pressure and the residue was dissolved in ethyl acetate (10 ml), washed sequentially with dilute citric acid solution (5 ml), water (5 ml) and saturated aqueous sodium chloride (5 ml), dried (MgSO4) and concentrated. The residual oil was purified by flash column chromatography, eluting with hexane/ethyl acetate (1:3) to give N-2-methoxyethyl-1-benzyloxycarbonylpiperidine-4-oxyacetamide (500 mg) as a colourless oil. NMR: (d6DMSO): δ1.4-1.5(2H,m); 1.75-1.9(2H,m); 3.0-3.4(9H,m); 3.55(1H,m); 3.65-3.8(2H,m); 3.9(2H,s); 5.1(2H,s); 7.3(5H,m); 7.6(1H, br. t); m/e 351(M+H)+, 373 (M+Na)+.

reactant | ethyl 1-benzyloxycarbonylpiperidine-4-oxyacetate | 2.4 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)OCC(=O)OCC | C17H23NO5
reactant | 2-methoxyethylamine | 5 ml | COCCN | C3H9NO
product | N-2-methoxyethyl-1-benzyloxycarbonylpiperidine-4-oxyacetamide | 500 mg | COCCNC(COC1CCN(CC1)C(=O)OCC1=CC=CC=C1)=O | C18H26N2O5
